US04343808
The compound of 4-cyanophenoxyacetonitrile was prepared by heating 29.8 g of 4-cyanophenol, 44.8 g of anhydrous K2CO3, 40 ml of dimethylformamide and 18.75 g of chloroacetonitrile with stirring in a round-bottomed three-necked flask at 70°-80° C. for 3 hours, after which time the reaction mixture was poured into an ice and water mixture, which resulted in crystal formation. The crystals were separated by filtering and were then washed with water. After drying a pale tan solid was obtained which was then dissolved in methylchloroform at reflux temperature, treated with activated charcoal and filtered. The filtrate was cooled to 5° C. and the resulting crystals filtered and dried to give the 4-cyanophenoxyacetonitrile.

reactant | 4-cyanophenol | 29.8 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | K2CO3 | 44.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetonitrile | 18.75 g | ClCC#N | C2H2ClN
reactant | charcoal | C | CH4
solvent | methylchloroform | CC(Cl)(Cl)Cl | C2H3Cl3
solvent | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-cyanophenoxyacetonitrile | C(#N)C1=CC=C(OCC#N)C=C1 | C9H6N2O
